US05847153
Step 2 Preparation of N-hydroxy-2-[(4-methylbenzenesulfonyl)methyl]-3-(4-methylbenzenesulfonyl)-propionamide.
To N-methylpyrrolidinone (20 mL) cooled in an ice bath, is added 2-[(4-methylbenzenesulfonyl)methyl]-3-(4-methylbenzenesulfonyl)-propionoic acid (4.4 g, 11 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.2 g, 22 mmol), and hydroxylamine hydrochloride (1.5 g, 22 mmol). After stirring overnight at ambient temperature, the mixture is transferred to ethyl acetate and extracted with aqueous 10% hydrochloric acid, distilled water, aqueous sodium bicarbonate, brine, and dried over anhydrous sodium sulfate. The organic phase is concentrated in vacuo and triturated from hexane to afford the title compound as a white solid.

reactant | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
reactant | 2-[(4-methylbenzenesulfonyl)methyl]-3-(4-methylbenzenesulfonyl)-propionoic acid | 11 mmol, 4.4 g | CC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CS(=O)(=O)C1=CC=C(C=C1)C | C18H20O6S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 22 mmol, 4.2 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxylamine hydrochloride | 22 mmol, 1.5 g | Cl.NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-hydroxy-2-[(4-methylbenzenesulfonyl)methyl]-3-(4-methylbenzenesulfonyl)-propionamide | ONC(C(CS(=O)(=O)C1=CC=C(C=C1)C)CS(=O)(=O)C1=CC=C(C=C1)C)=O | C18H21NO6S2
